US07560558B2
Compound 407: 2-[6-Methoxy-4-(2-methyl-[1,6]naphthyridin-3-yloxy)-quinolin-7-yloxy]-ethanol
3-(7-Hydroxy-6-methoxy-quinolin-4-yloxy)-2-methyl-[1,6]naphthyridine (157 mg) was dissolved in N,N-dimethylformamide (8 ml) to prepare a solution. Potassium carbonate (195 mg) and 2-bromoethanol (0.1 ml) were added to the solution, and the mixture was stirred at 70° C. overnight. The solvent was removed by distillation under the reduced pressure. Water was then added to the residue, and the mixture was extracted with chloroform. The chloroform layer was washed with saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using chloroform-acetone to give the title compound (147 mg, yield 83%).

reactant | 3-(7-Hydroxy-6-methoxy-quinolin-4-yloxy)-2-methyl-[1,6]naphthyridine | 157 mg | OC1=C(C=C2C(=CC=NC2=C1)OC=1C(=NC2=CC=NC=C2C1)C)OC | C19H15N3O3
reactant | Potassium carbonate | 195 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethanol | 0.1 ml | BrCCO | C2H5BrO
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 2-[6-Methoxy-4-(2-methyl-[1,6]naphthyridin-3-yloxy)-quinolin-7-yloxy]-ethanol | 147 mg, yield 83% | COC=1C=C2C(=CC=NC2=CC1OCCO)OC=1C(=NC2=CC=NC=C2C1)C | C21H19N3O4
